US05468742
4) Cis-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane
91 g (0.265 mol) of cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane are refluxed overnight with 200 ml of concentrated hydrochloric acid and 140 ml of water. The batch is cooled and the benzoic acid suctioned off. The batch is concentrated to half its original volume, adjusted to alkalinity with potassium carbonate, extracted with chloroform, dried over potassium carbonate, concentrated, and distilled.

reactant | cis-8-benzoyl-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 0.265 mol, 91 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]2N(CCO[C@@H]2C1)CC1=CC=CC=C1 | C20H22N2O2
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | water | 140 ml | O | H2O
product | Cis-5-benzyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | C(C1=CC=CC=C1)N1CCO[C@@H]2CNC[C@H]12 | C13H18N2O
